US07893267B2
2.0 g (9.9 mmol) of 2,6-difluoro-3-nitro-benzoic acid in methanol and 3.0 g (30.0 mmol) of ammonium acetate was stirred at room temperature for 12 h. The solvent was evaporated and dilute HCl solution was added. The precipitated solid was collected by filtration and washed with water to produce 2-amino-6-fluoro-3-nitro-benzoic acid. LCMS: 201 (M+1)+.

reactant | 2,6-difluoro-3-nitro-benzoic acid | 9.9 mmol, 2.0 g | FC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])F | C7H3F2NO4
reactant | ammonium acetate | 30.0 mmol, 3.0 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
product | 2-amino-6-fluoro-3-nitro-benzoic acid | NC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])F | C7H5FN2O4
